US09260420B2
Synthesis of cyclopentanecarboxylic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester
To a solution (10 ml) of cyclopentanecarboxylic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester (252 mg) synthesized in the same manner as in Example 13 in THF was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (509 mg), and the mixture was stirred at room temperature stirred for 2 days. To the reaction mixture were added water and sodium carbonate, and the mixture was extracted with dichloromethane, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by moderate-pressure silica gel column chromatography (hexane:ethyl acetate=1:0 to 0:1) and further by NH silica gel column chromatography (hexane:ethyl acetate=1:0 to 0:1) to give the title compound (yield 38 mg, 15%) as a colorless amorphous solid.

reactant | cyclopentanecarboxylic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester | 10 ml, 252 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)COC(=O)C2CCCC2)=O | C32H39N3O4S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 509 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | cyclopentanecarboxylic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester | yield 38 mg, 15% | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(N(C1=C2)COC(=O)C2CCCC2)=O | C32H37N3O4S
